US09428511B2
A solution of NBS (1.548 g, 8.70 mmol) in DMF (15 ml) was added slowly via addition funnel to a solution of ethyl 1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate (2.22 g, 8.70 mmol) in DMF (12 ml) at room temperature. The reaction was stirred at room temperature overnight. To the reaction was added a saturated solution of sodium bicarbonate until the yellow solution became a white suspension. The mixture was concentrated to dryness. The residue was partitioned between EtOAc and water. The organic phase was washed (brine), dried (Na2SO4) and concentrated to give a yellow viscous oil. The crude product was purified via silica gel column (Isco prep: 15-100% ethyl acetate/hexanes) to afford ethyl 4-bromo-1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate (1.52 g, 4.55 mmol, 52.3% yield) as a white solid. LCMS (Method B) m/z 334.1 [M+1], Br-pattern; 1H NMR (400 MHz, chloroform-d) δ 7.26 (s, 1H), 4.42 (q, J=7.1 Hz, 2H), 1.51 (s, 9H), 1.42 (t, J=7.2 Hz, 3H).

reactant | NBS | 8.70 mmol, 1.548 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl 1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate | 8.70 mmol, 2.22 g | C(C)(C)(C)OC(=O)NN1C(=NC=C1)C(=O)OCC | C11H17N3O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | ethyl 4-bromo-1-((tert-butoxycarbonyl)amino)-1H-imidazole-2-carboxylate | 4.55 mmol, 1.52 g, 52.3% yield | BrC=1N=C(N(C1)NC(=O)OC(C)(C)C)C(=O)OCC | C11H16BrN3O4
